DC Sweep with Resistor Stepping for Xyce
V1 1 0 DC 0V
R1 1 2 1k
R2 2 0 2k

.PREPROCESS REPLACEGROUND TRUE
.DC V1 0 5 0.5
.PRINT DC FORMAT=RAW FILE=dc-sweep-with-step-03.raw V(*) I(*) P(*)
.STEP R1 LIST 1k 2k 3k

.END
